US08232312B2
6-nitro-1H-indole-3-carboxylic acid-methylamide
250 mg 6-nitro-1H-indole-3-carboxylic acid are dissolved in 10 ml of tetrahydrofuran, combined with 240 mg carbonyl-diimidazole and stirred for 30 minutes at 60° C. Then 750 μl of a 2 M solution of methylamine in tetrahydrofuran is added and the mixture is stirred overnight at 60° C. Then 1 N hydrochloric acid is added and the precipitated solid is suction filtered. Then the solid is extracted from ethyl acetate, suction filtered and dried.

reactant | 6-nitro-1H-indole-3-carboxylic acid | 250 mg | [N+](=O)([O-])C1=CC=C2C(=CNC2=C1)C(=O)O | C9H6N2O4
reactant | carbonyl-diimidazole | 240 mg | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | methylamine | CN | CH5N
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 6-nitro-1H-indole-3-carboxylic acid-methylamide | CNC(=O)C1=CNC2=CC(=CC=C12)[N+](=O)[O-] | C10H9N3O3
